* Simple Switches
* Martin Sadler
*
* SET = 0, switch off
* SET = 1, Switch on

.subckt SwitchNO IN1 IN2 SW_PULSE VGND 
S1 IN1 IN2 SW_PULSE VGND swno
.model swno	SW(Ron=.001n Roff=100Meg Vt=0.01n Vh=0 Lser=0 Vser=0)
.ends SwitchNO

.subckt spst 1 2
Rsw12 1 2 {1T*(1-SET)+.001}
.ends spst

.subckt spdt 1 2 3
Rsw12 1 2 {1T*(1-SET)+.001}
Rsw13 1 3 {1T*SET+.001}
Rsw23 2 3 {1T}
.ends spdt

.subckt dpdt 1a 2a 3a 1b 2b 3b
Rswa12 1a 2a {1T*(1-SET)+.001}
Rswa13 1a 3a {1T*SET+.001}
Rswa23 2a 3a {1T}
Rswb12 1b 2b {1T*(1-SET)+.001}
Rswb13 1b 3b {1T*SET+.001}
Rswb23 2b 3b {1T}
.ends dpdt